US04245097
Preparation of 4-[11-(n-butylsulfonyl)undecylamino]benzoic acid
A mixture of 3.8 g. of 4-[11-(n-butylthio)undecylamino]benzoic acid and 11 g. of sodium metaperiodate in 50 ml. of water and 200 ml. of methanol is stirred under reflux for 24 hours and filtered while hot. The filtrate was allowed to cool and then extracted with methylene chloride. The extract is dried over magnesium sulfate and evaporated to yield a solid. Recrystallization from acetone-chloroform affords the product as a white solid.

reactant | 4-[11-(n-butylthio)undecylamino]benzoic acid | C(CCC)SCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C22H37NO2S
reactant | sodium metaperiodate | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | CO | CH4O
product | 4-[11-(n-butylsulfonyl)undecylamino]benzoic acid | C(CCC)S(=O)(=O)CCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C22H37NO4S
